datasets/RMG-dataset.csv
rxn,Ea
[H:0].[c:1]1([H:19])[c:2]([H:20])[c:3]([H:21])[c:4]2[c:5]([c:6]1[H:22])[c:7]([H:23])[c:8]([H:24])[c:9]1[c:10]3[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]3[c:16]([H:29])[c:17]([H:30])[c:18]21>>[H:0][H:23].[c:1]1([H:19])[c:2]([H:20])[c:3]([H:21])[c:4]2[c:5]([c:6]1[H:22])[c:7][c:8]([H:24])[c:9]1[c:10]3[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]([H:28])[c:15]3[c:16]([H:29])[c:17]([H:30])[c:18]21,23.8625
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])([H:10])[H:11]>>[C:0]([S:1][H:5])([H:3])[H:4].[H:2][C:7]([C:6]([H:9])([H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],27.196
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8]>>[C:0]([S:1])([S:2][C:5]([C:6]([H:9])([H:10])[H:11])([H:7])[H:8])([H:3])[H:4],-4.85344
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])=[C:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:8].[H:18]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([C:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:18])[H:8],13.7654
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[c:8]1[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]([H:17])[c:13]1[H:18])[H:6],-5.31368
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([C:11]([C:12]([H:21])([H:22])[H:23])([O:13][O:14])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][O:14][O:13][C:11]([C:10]([C:9]([H:15])([H:16])[H:17])([H:18])[H:19])([C:12]([H:21])([H:22])[H:23])[H:20],55.5974104
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([O:7][O:8])[H:16])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2](=[C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:16])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:14],122.850608
[C:0]([C:1]1([H:9])[C:2]([H:10])[O:3][O:4][C:5]1([H:11])[H:12])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[O:3])[H:10])([C:5]([O:4])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],12.552
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[C:15]([C:14]([H:22])[H:23])([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])[H:7])([H:5])[H:6],56.9861
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[O:24][O:25][H:26]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][O:24][O:25][H:26],62.395992
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:12])([H:13])[H:14])([H:11])[C:3]2=[C:4]([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])[C:8]12[H:19],132.268792
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:22])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15](=[C:14]([H:20])[H:21])[H:22])([C:17]([H:23])([H:24])[H:25])[C:18](=[C:19]([H:27])[H:28])[H:26])[H:6],68.8268
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6][H:7]>>[C:0]([S:1][S:6][H:7])([H:2])([H:3])[H:4].[H:5],109.035
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])[C:5]1([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])([H:8])([H:9])[H:10],142.172
[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])=[C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[H:14])([H:12])[H:13].[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36]>>[C:0](=[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([C:4]([C:5]([H:18])([H:19])[H:20])[c:6]1[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]1[H:25])[c:26]1[c:27]([H:32])[c:28]([H:33])[c:29]([H:34])[c:30]([H:35])[c:31]1[H:36])[H:14])([H:12])[H:13],1.6736
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:20])[H:21])[H:19])=[C:7]([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12]>>[C:0]1([H:11])([H:12])[C:1]([H:13])([H:14])[C:2]([H:15])([H:16])[C:3]([H:17])([H:18])[C:4]([C:5](=[C:6]([H:20])[H:21])[H:19])[C:7]1([C:8]([H:22])([H:23])[H:24])[C:9](=[C:10]([H:26])[H:27])[H:25],41.4634
